US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{3-(imidazol-1-yl)propyl}pyrrolidin-4yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (4.00 g) in acetone (20 ml) was added methyl iodide (4.57 ml) at room temperature and the solution was allowed to stand overnight. The solvent was evaporated to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{3-(3-methyl-1-imidazolio) propyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (5.01 g) as a yellow solid. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{3-(imidazol-1-yl)propyl}pyrrolidin-4yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 4.00 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCCN1C=NC=C1 | C27H36N4O6S
reactant | methyl iodide | 4.57 ml | CI | CH3I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{3-(3-methyl-1-imidazolio) propyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 5.01 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCC[N+]1=CN(C=C1)C | InChI=1S/C28H39N4O6S.HI/c1-6-13-37-27(35)24-25(18(3)23-22(19(4)33)26(34)32(23)24)39-21-15-20(31(16-21)28(36)38-14-7-2)9-8-10-30-12-11-29(5)17-30;/h6-7,11-12,17-23,33H,1-2,8-10,13-16H2,3-5H3;1H/q+1;/p-1/t18-,19-,20-,21+,22-,23-;/m1./s1
